US06884868B1
A mixture of 4′-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]-1,1′-biphenyl-4-carboxylic acid methyl ester (3.70 g) and 1.0 mol/l sodium hydroxide solution (30 ml) in a mixed solvent of methanol (75 ml) and tetrahydrofuran (185 ml) was refluxed for 15.5 hours. After cooling to ambient temperature, the reaction mixture was poured into cold water, and the mixture was adjusted to pH 2 with 1.0 mol/l hydrochloric acid. The resulting precipitates were filtered, washed with water and diisopropyl ether and dried to give 4′-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]-1,1′-biphenyl-4-carboxylic acid (3.68 g).

reactant | 4′-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]-1,1′-biphenyl-4-carboxylic acid methyl ester | 3.70 g | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C[C@H](O[C@H](C1)C)C | C30H35N3O3
reactant | sodium hydroxide | 1.0 mol/l, 30 ml | [OH-].[Na+]
reactant | methanol | 75 ml | CO | CH4O
reactant | hydrochloric acid | 1.0 mol/l | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 185 ml | O1CCCC1 | C4H8O
product | 4′-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]-1,1′-biphenyl-4-carboxylic acid | 3.68 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C29H33N3O3
